* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp3\Draft2.asc
R1 N003 0 2k
R2 N004 N003 1k
R3 N005 N004 1k
R4 N006 N005 1k
R5 N007 N006 1k
R6 N008 N007 1k
R7 N009 N008 1k
R8 N001 N009 1k
R9 bo N003 2k
R10 b1 N004 2k
R11 b2 N005 2k
R12 b3 N006 2k
R13 b4 N007 2k
R14 b5 N008 2k
R15 b6 N009 2k
R16 b7 N001 2k
V1 bo 0 PULSE(3.3 0 0 1p 1p 1m 2m)
V2 b1 0 PULSE(3.3 0 0 1p 1p 2m 4m)
V3 b2 0 PULSE(3.3 0 0 1p 1p 4m 8m)
V4 b3 0 PULSE(3.3 0 0 1p 1p 8m 16m)
V5 b4 0 PULSE(3.3 0 0 1p 1p 16m 32m)
V6 b5 0 PULSE(3.3 0 0 1p 1p 32m 64m)
V7 b6 0 PULSE(3.3 0 0 1p 1p 64m 128m)
V8 b7 0 PULSE(3.3 0 0 1p 1p 128m 256m)
R17 N002 N001 6
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
R18 0 N002 8
.tran 256m
.lib opamp.sub
.backanno
.end
